US06004983
Magnesium (4.94 g, 0.203 mol) under tetrahydrofuran (15 ml) was activated with a grain of iodine and 1,2-dibromoethane (0.4 ml). After the reaction was finished, 10% of a solution of vinylbromide (21.4 g, 0.2 mol) in tetrahydrofuran (70 ml) was added (dry ice-ethanol condenser, nitrogen atmosphere). The reaction started immediately, and the remaining part of the vinylbromide solution was added dropwise under stirring at such a rate (over 45 minutes) as to maintain the temperature at 58-62° C. The mixture was heated at reflux temperature for 30 minutes and then cooled to 30° C. Over 1 h, a solution of 2-chloro-6,11-dihydrodibenzo[b,e]thiepine (28.9 g, 0.1 mol, prepared as described in Es. farmacie 11, 451, 1962) in tetrahydrofuran (70 ml) was added dropwise under stirring (30-35° C.). The mixture was allowed to stand overnight at room temperature and then quenched under cooling (ice and sodium chloride) with a solution of ammonium chloride (21 g) in water (100 ml). Toluene (100 ml) was added, the mixture was filtered and the aqueous layer was extracted with toluene (3×100 ml). The toluene solutions were combined, dried (MgSO4) and evaporated. The residue was crystallised from a mixture of benzene (50 ml) and hexane (100 ml) to give 27.4 g (95%) of 2-chloro-11-vinyl-6,11-dihydrodibenzo[b,e]thiepin-11-ol.

reactant | Magnesium | 0.203 mol, 4.94 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 1,2-dibromoethane | 0.4 ml | BrCCBr | C2H4Br2
reactant | vinylbromide | 0.2 mol, 21.4 g | C(=C)Br | C2H3Br
reactant | dry ice ethanol | C(=O)=O.C(C)O
reactant | 2-chloro-6,11-dihydrodibenzo[b,e]thiepine | 0.1 mol, 28.9 g | ClC1=CC2=C(SCC3=C(C2)C=CC=C3)C=C1 | C14H11ClS
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | 2-chloro-11-vinyl-6,11-dihydrodibenzo[b,e]thiepin-11-ol | 27.4 g, 95% | ClC1=CC2=C(SCC3=C(C2(O)C=C)C=CC=C3)C=C1 | C16H13ClOS
